US06599929B2
Preparation of 1-Benzoyl-5-nitro-1H-indole
5-nitroindole (50 mg, 0.31 mmol) and potassium carbonate (128 mg, 0.93 mmol) were suspended in. dimethylformamide (1.0 ml). Then, benzoyl chloride (0.04 ml, 0.345 mmol) was added and stirred at room temperature for 2 hours. After completing the reaction, water and ethylacetate (respectively 5 ml) were added to extract, washed with brine, dried over anhydrous magnesium sulfate, concentrated under reduced pressure, and then purified through a flash column chromatography (an eluent: ethyl acetate/n-hexane=1/1, v/v). As a result, the present compound (35 mg, productive yield 43%) was obtained.

reactant | 5-nitroindole | 0.31 mmol, 50 mg | [N+](=O)([O-])C=1C=C2C=CNC2=CC1 | C8H6N2O2
reactant | potassium carbonate | 0.93 mmol, 128 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
reactant | benzoyl chloride | 0.345 mmol, 0.04 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | water | O | H2O
product | 1-Benzoyl-5-nitro-1H-indole | yield 43% | C(C1=CC=CC=C1)(=O)N1C=CC2=CC(=CC=C12)[N+](=O)[O-] | C15H10N2O3
